US07683195B2
Diethanolamine (0.33 g) was dissolved in water (5 mL), and to this was added an ether solution (20 mL) containing benzoylacetic acid (0.54 g). Next, the mixture was stirred at 15° C. while an aqueous solution (5 mL) containing silver nitrate (0.51 g) was added dropwise, and this further was stirred for 15 minutes. The pale yellow precipitate that settled was filtered off, yielding silver benzoylacetate (yield 0.79 g). FIG. 4 shows the infrared absorption spectrum (IR) of the silver benzoylacetate that was obtained. IR:1687 cm−1, 1540 cm−1.

reactant | Diethanolamine | 0.33 g | N(CCO)CCO | C4H11NO2
reactant | ether | 20 mL | CCOCC | C4H10O
reactant | benzoylacetic acid | 0.54 g | C(C1=CC=CC=C1)(=O)CC(=O)O | C9H8O3
reactant | silver nitrate | 0.51 g | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 5 mL | O | H2O
product | silver benzoylacetate | yield 0.79 g | C(C1=CC=CC=C1)(=O)CC(=O)[O-].[Ag+] | InChI=1S/C9H8O3.Ag/c10-8(6-9(11)12)7-4-2-1-3-5-7;/h1-5H,6H2,(H,11,12);/q;+1/p-1
